US04920119
1 g of 5-amino-1-phenyl-4-pyrazolecarboxamide in 18 ml of glacial acetic acid and 10 ml of concentrated hydrochloric acid was stirred at 0° C. during the addition of a solution of 0.4 g of sodium nitrite in 6 ml of water. The mixture was held at 0° C. for 20 minutes, then allowed to warm to room temperature and stirred for a further 2 hours. The precipitated product was filtered off and recrystallized from ethanol to yield 580 mg of 7-phenyl-7H-pyrazolo[3,4-d]-1,2,3-triazin-4(3H)-one of melting point 150°-151° C.

reactant | 5-amino-1-phenyl-4-pyrazolecarboxamide | 1 g | NC1=C(C=NN1C1=CC=CC=C1)C(=O)N | C10H10N4O
reactant | sodium nitrite | 0.4 g | N(=O)[O-].[Na+]
solvent | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
product | 7-phenyl-7H-pyrazolo[3,4-d]-1,2,3-triazin-4(3H)-one | 580 mg | C1(=CC=CC=C1)N1N=CC2=C1N=NNC2=O | C10H7N5O
